US04497650
2,2-Dimethyl-N,3-dipropyl-4-oxo-2,3,4,10-tetrahydro-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The subject compound was prepared by reaction of 2-aminobenzimidazole, acetone and propyl isocyanate with workup all essentially as described in the first paragraph of Example 1. The product was purified by column chromatography on silica, eluting with chloroform, giving, on evaporation, white crystals, mp 72°-74° C. The confirmatory elemental analysis is shown in Table III.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | propyl isocyanate | C(CC)N=C=O | C4H7NO
reactant | acetone | CC(=O)C | C3H6O
product | 2,2-Dimethyl-N,3-dipropyl-4-oxo-2,3,4,10-tetrahydro-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | CC1(N=C2N(C3=C(N2C(N1CCC)=O)C=CC=C3)C(=O)NCCC)C | C18H25N5O2
